Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Vaginal bleeding 
 
Major Surgical or Invasive Procedure:
Dilation and curettage

 
History of Present Illness:
___ POD ___ s/p primary LTCS at 34w6d for twins, mild
preeclampsia, and cholestasis presents with heavy vaginal
bleeding since ___ this morning. Has been feeling slightly 
dizzy
with a mild headache. Passed one clot in bathroom prior to
ultrasound, otherwise has been saturating over 1 pad/hr x 12 
hrs.
Denies vision changes, chest pain, SOB, RUQ pain. Does report
nasal congestion that has been present since arrival to 
hospital.

Was followed for cholestasis during the later part of her
pregnancy. Developed hypertension and had a 24-hr urine
performed, which returned at >500mg. Given a new diagnosis of
preeclampsia as well as a mild headache, she was delivered at
34w6d. She did not receive magnesium or antihypertensives
postpartum. She was discharged home in good condtion on POD#4.
She did have notable ___ swelling and had ___ U/S today which 
was
negative for DVT. Her swelling has improved considerably since
delivery. She was seen today in the office for her bleeding and
her BP was elevated. A script for labetalol had been routed to
her pharmacy but she did not take any yet.

 
Past Medical History:
POBHx: ___ s/p LTCS ___
PGynHx: denies known fibroids
PMHx: right breast cancer in ___, s/p right lumpectomy, chemo
and XRT, as well as ___ years of tamoxifen with currently ___. 
hypothyroidism.
PSHx: right breast lumpectomy as noted, gum surgery, LTCS

 
Social History:
married, denies t/e/d, trial court judge

 
Physical Exam:
On admission:
VS on admission to ED:
97.9 93 169/97 16 100%  
Repeat BP 185/87
NAD, breathing through mouth as has stuffy nose
Heart RRR
Lungs CTAB
Abdomen soft, + BS, uterine fundus palpated ___ FB above 
umbilicus,
tender to palpation at fundus and lower uterus.
___ mildly tender, 2+ pitting edema

Pelvic: dark blood pooled in vault. Cervix unable to be
visualized due to pt's discomfort and redundant vaginal walls. 
On BME cervix very posterior, external os feels dilated ~1cm but
unable to palpate higher due to discomfort/posterior cervix

 
Pertinent Results:
LABS:
___ 12:55AM BLOOD WBC-6.6 RBC-2.64* Hgb-8.3* Hct-24.7* 
MCV-93 MCH-31.5 MCHC-33.7 RDW-16.5* Plt ___
___ 12:29PM BLOOD WBC-8.4 RBC-2.86*# Hgb-9.6*# Hct-26.4*# 
MCV-93 MCH-33.7* MCHC-36.4* RDW-16.5* Plt ___
___ 04:23AM BLOOD WBC-10.1 RBC-2.17* Hgb-6.9* Hct-20.3* 
MCV-94 MCH-31.9 MCHC-34.1 RDW-16.1* Plt ___
___ 09:51PM BLOOD WBC-10.5 RBC-2.62* Hgb-8.6* Hct-24.5* 
MCV-94# MCH-32.9* MCHC-35.1* RDW-15.7* Plt ___
___ 06:07PM BLOOD WBC-10.8 RBC-2.66* Hgb-8.8* Hct-27.1* 
MCV-102* MCH-33.1* MCHC-32.5 RDW-13.4 Plt ___
___ 01:40PM BLOOD WBC-11.0# RBC-2.70* Hgb-8.8* Hct-28.1* 
MCV-104* MCH-32.6* MCHC-31.3 RDW-13.2 Plt ___
___ 05:30AM BLOOD Neuts-70 Bands-0 Lymphs-15* Monos-8 
Eos-6* Baso-1 ___ Myelos-0
___ 12:29PM BLOOD Neuts-80* Bands-0 Lymphs-13* Monos-3 
Eos-0 Baso-1 ___ Metas-1* Myelos-2*
___ 08:00PM BLOOD ___ PTT-24.2* ___
___ 04:23AM BLOOD ___ PTT-26.7 ___
___ 09:51PM BLOOD ___ PTT-26.9 ___
___ 01:40PM BLOOD ___ PTT-31.3 ___
___ 05:30AM BLOOD Glucose-105* UreaN-9 Creat-0.5 Na-141 
K-4.2 Cl-110* HCO3-23 AnGap-12
___ 12:29PM BLOOD Glucose-93 UreaN-8 Creat-0.6 Na-138 K-4.3 
Cl-108 HCO3-22 AnGap-12
___ 04:23AM BLOOD Glucose-110* UreaN-8 Creat-0.7 Na-140 
K-4.1 Cl-108 HCO3-24 AnGap-12
___ 06:07PM BLOOD Glucose-95 UreaN-11 Creat-0.6 Na-140 
K-3.9 Cl-105 HCO3-23 AnGap-16
___ 01:40PM BLOOD Glucose-86 UreaN-13 Creat-0.6 Na-137 
K-4.6 Cl-104 HCO3-21* AnGap-17
___ 04:23AM BLOOD ALT-25 AST-23 LD(LDH)-298* AlkPhos-157* 
TotBili-0.4
___ 01:40PM BLOOD ALT-38 AST-46* LD(LDH)-544* AlkPhos-287* 
TotBili-0.3

IMAGING:
Pelvic US ___:
1. Large bulky uterus containing a large amount of echogenic, 
non-vascularized 
products, likely blood and clot.  
2. Ovaries not visualized. Fluid containing right pelvic 
structure may 
reprsent the bladder. Attention at follow-up pelvic ultrasound 
in 6 weeks. 

 
Brief Hospital Course:
Given concern for hematometra and a diagnosis of delayed 
postpartum hemorrhage, the decision was made to proceed to the 
OR for a dilation and curettage. Please see operative report for 
further details regarding the procedure. Total EBL for the case 
was 1700cc. A bakri balloon was placed at the end of the case. 
Ms ___ was transferred to the FICU for immediate post 
operative monitoring. She received a total of  4units PRBCs, 1 
FFP, and 2u cryo. She remained hemodynamically stable. Her 
hematocrit was carefully trended and was stable 25 prior to 
transfer to the postpartum floor. Her bleeding after the 
procedure was minimal and the Bakri balloon was removed by 
POD#1. 
Ms. ___ was noted to have febrile (temp 100.6) prior to the OR 
and was therefore started on gentamicin and clindamycin for 
treatment of endometritis. This was continued until she was 
afebrile for >24 hours. 
Ms. ___ was noted to have persistently elevated BPs. On 
arrival to the ED, her preeclampsia labs were notable for a 
mildly elevated AST although the specimen was thought to be 
hemolyzed. Magnesium was held as there was no evidence of severe 
preeclampsia. She was treated with IV labetalol intraoperatively 
and in the FICU. After transfer to the postpartum floor she was 
started on labetalol PO 200 BID after having a BP of 160/90. Her 
blood pressures remained well controlled on this regimen. 
 
Discharge Medications:
1. labetalol 200 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematometra
Elevated Blood pressures
Endometritis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Call with severe headaches, visual changes or upper abdominal 
pain. Call for heavy bleeding, fever >101 and any concerns.
 
Followup Instructions:
___